US07026518B2
Reaction of diethyl 3,4,5-trimethoxybenzylphosphonate (5.4 g, 17 mmol) with 3,4-dimethoxybenzaldehyde (2 g, 12 mmol) in presence of NaH (0.97 g, 20 mmol), under the conditions noted in example 1, gave 1-(3,4-dimethoxyphenyl)-2-(3,4,5-trimethoxyphenyl) ethylene, m.p. 150–152° C.; IR (KBr) νmax 2934, 2835, 1583, 1510, 1331, 1249, 1125, 1024, 1004, 976, 850 cm−1; 1H NMR (CDCl3, 400 MHz) δ 7.06 (1H, s), 7.05 (1H, dd, J=8.0, 1.9 Hz), 6.97 (1H, d, J=16.0 Hz), 6.89 (1H, d, J=16.0 Hz), 6.87 (1H, d, J=8.0 Hz), 6.73 (2H, s), 3.95 (3H, s), 3.92 (6H, s), 3.91 (3H, s), 3.87 (3H, s).

reactant | diethyl 3,4,5-trimethoxybenzylphosphonate | 17 mmol, 5.4 g | COC=1C=C(CP(OCC)(OCC)=O)C=C(C1OC)OC | C14H23O6P
reactant | 3,4-dimethoxybenzaldehyde | 12 mmol, 2 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | NaH | 20 mmol, 0.97 g | [H-].[Na+]
product | 1-(3,4-dimethoxyphenyl)-2-(3,4,5-trimethoxyphenyl) ethylene | COC=1C=C(C=CC1OC)C=CC1=CC(=C(C(=C1)OC)OC)OC | C19H22O5
